US08003649B2
A mixture of 3-fluorobenzaldehyde and 6-(3,6-dihydro-2H-pyridin-4-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 5 to give 6-[1-(3-fluorobenzyl)-1,2,3,6-tetrahydropyridin-4-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine in 46% yield.

reactant | 3-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | 6-(3,6-dihydro-2H-pyridin-4-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1CCC(=CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C11H10F3N5
product | 6-[1-(3-fluorobenzyl)-1,2,3,6-tetrahydropyridin-4-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 46% yield | FC=1C=C(CN2CCC(=CC2)C=2C=CC=3N(N2)C(=NN3)C(F)(F)F)C=CC1 | C18H15F4N5
